US09193692B2
D. 4-(Tetrahydro-2H-pyran-2-yl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4H-1,2,4-triazole
3-(4-Bromophenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole (8.1 g, 26.3 mmol), bis(pinacolato)diboron (6.67 g, 26.3 mmol) and potassium acetate (10.32 g, 105 mmol) were combined in dimethylformamide (100 mL). The solution was purged with nitrogen gas for 2 minutes. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (1.07 g, 1.31 mmol) was then added and the solution heated to 100° C. for 16 h. The solution was filtered through celite and the filtrate condensed under reduced pressure to afford a dark oil. The oil was purified via Biotage chromatography (0-70% ethyl acetate in hexanes) to afford a solid upon drying. The solid was diluted with hexanes, sonicated, filtered and dried to afford the title compound (7.1 g, 20.0 mmol, 71% yield). MS (ESI) m/z 356.5 [M+1]+.

reactant | 3-(4-Bromophenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole | 26.3 mmol, 8.1 g | BrC1=CC=C(C=C1)C1=NN=CN1C1OCCCC1 | C13H14BrN3O
reactant | bis(pinacolato)diboron | 26.3 mmol, 6.67 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 105 mmol, 10.32 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 1.31 mmol, 1.07 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(Tetrahydro-2H-pyran-2-yl)-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4H-1,2,4-triazole | 20.0 mmol, 7.1 g, 71% yield | O1C(CCCC1)N1C(=NN=C1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H26BN3O3
